US07790730B2
A mixture of 4,5-diaminopyrimidine (0.500 g), 2-fluorobenzoic acid (0.700 g) and polyphosphoric acid (25 mL) was heated at 180° C. for 3 hours. Then the reaction mixture was cooled and poured into water (500 mL). The solution was adjusted to pH=8-9 by addition of solid NaOH and the resulting precipitate was collected by filtration, washed with water and dried to give 8-(2-fluorophenyl)-purine (off-white powder, 88.5%).

reactant | 4,5-diaminopyrimidine | 0.500 g | NC1=NC=NC=C1N | C4H6N4
reactant | 2-fluorobenzoic acid | 0.700 g | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | NaOH | [OH-].[Na+]
solvent | water | 500 mL | O | H2O
product | 8-(2-fluorophenyl)-purine | 88.5% | FC1=C(C=CC=C1)C1=NC2=NC=NC=C2N1 | C11H7FN4
